US05070087
2-(Acetyloxy)-1-(4-hydroxy-3-methoxyphenyl)ethanone
To a slurry of 80.2 g (0.4 mole) of 2-chloro-1-(4-hydroxy-3-methoxyphenyl)ethanone in 576 ml of absolute ethanol and 24 ml of glacial acetic acid was added 73.6 g (0.75 mole) of potassium acetate, and the mixture was heated at reflux temperature for 1 hr. The mixture was cooled, filtered, and the filtrate concentrated to a gummy residue. The residue was triturated with four 200 ml portions of hot benzene. The combined extracts were washed with three 200 ml portions of saturated aqueous sodium bicarbonate solution and once with brine, dried over sodium sulfate, and concentrated to give a solid residue. The solid was recrystallized from benzene (with charcoal treatment) to yield 32.4 g (36% yield) of the title compound as a white solid, mp 115°-117° C.

reactant | 2-chloro-1-(4-hydroxy-3-methoxyphenyl)ethanone | 0.4 mole, 80.2 g | ClCC(=O)C1=CC(=C(C=C1)O)OC | C9H9ClO3
reactant | potassium acetate | 0.75 mole, 73.6 g | C(C)(=O)[O-].[K+]
solvent | ethanol | 576 ml | C(C)O | C2H6O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 2-(Acetyloxy)-1-(4-hydroxy-3-methoxyphenyl)ethanone | 32.4 g, 36% yield | C(C)(=O)OCC(=O)C1=CC(=C(C=C1)O)OC | C11H12O5
